US05834506
N-(5-tert-Butyl-4-{4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-methyl-2-oxo-5,6-dihydro-2H-pyran-3-ylsulfanyl}-2-methyl-phenyl)-4-cyano-benzenesulfonamide
The title compound was prepared as described in General Method 9 from 4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-methyl-5,6-dihydro-pyran-2-one (prepared in Example KK; 0.09 g, 0.37 mmol), DMF (6 mL), K2CO3 (0.11 g, 0.81 mmol), and toluene-4-thiosulfonic acid S-[2-tert-butyl-4-(4-cyano-benzenesulfonylamino)-5-methyl-phenyl] ester (prepared in Example JJJJ; 0.19 g, 0.37 mmol). The mixture was stirred at room temperature overnight. After the standard work-up, the resulting residue was flash chromatographed on silica gel, eluting with 2% EtOH:EtOAc, then triturated with EtOAc:CH2Cl2 :hexanes to afford the title compound. 1H NMR (DMSO-d6) δ 1.24 (s, 9 H), 1.42 (s, 3 H), 1.87 (s, 3 H), 1.92 (m, 2 H), 2.52 (m, partially obscured by DMSO, 2 H), 2.75 (d of ABX q, 1 H), 2.95 (d of ABX q, 1 H), 6.46 (s, 1 H), 6.64 (d, 2 H), 6.70 (s, 1 H), 6.96 (d, 2 H), 7.77 (d, 2 H), 8.06 (d, 2 H), 9.15 (s, 1 H), 9.68 (s, 1 H).

reactant | 4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-methyl-5,6-dihydro-pyran-2-one | 0.37 mmol, 0.09 g | OC1=CC(OC(C1)(C)CCC1=CC=C(C=C1)O)=O | C14H16O4
reactant | K2CO3 | 0.81 mmol, 0.11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene-4-thiosulfonic acid S-[2-tert-butyl-4-(4-cyano-benzenesulfonylamino)-5-methyl-phenyl] ester | 0.37 mmol, 0.19 g | C(C)(C)(C)C1=C(C=C(C(=C1)NS(=O)(=O)C1=CC=C(C=C1)C#N)C)SS(=O)(=O)C1=CC=C(C=C1)C | C25H26N2O4S3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-(5-tert-Butyl-4-{4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-methyl-2-oxo-5,6-dihydro-2H-pyran-3-ylsulfanyl}-2-methyl-phenyl)-4-cyano-benzenesulfonamide | C(C)(C)(C)C=1C(=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)C#N)C)SC=1C(OC(CC1O)(C)CCC1=CC=C(C=C1)O)=O | C32H34N2O6S2
